US05998463
EXAMPLE 4 5-Acetyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid (3-p-tolylcarbamoylphenyl)-amide.
Prepared as in Example 1 from 1-ethyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester and 3-amino-N-(p-tolyl)-benzamide. Purified by trituration in ethyl acetate hexanes. mp 168 dec.

reactant | 1-ethyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)C)CC)=O | C16H19NO5
reactant | 3-amino-N-(p-tolyl)-benzamide | NC=1C=C(C(=O)NC2=CC=C(C=C2)C)C=CC1 | C14H14N2O
product | 5-Acetyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid (3-p-tolylcarbamoylphenyl)-amide | C1(=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(C)=O)CC)=O)C | C27H25N3O4
